US09238639B2
C) Methyl(6-hydroxy-7-methyl-1-benzothiophen-3-yl)acetate
To a mixture of aluminum chloride (3.30 g) and toluene (30 mL) was added 1-dodecanethiol (17.80 mL) at room temperature, and the mixture was stirred at room temperature for 30 min. To the mixture was added methyl(6-methoxy-7-methyl-1-benzothiophen-3-yl)acetate (3.1 g) at room temperature. The mixture was stirred at room temperature for 13 h. The mixture was quenched with ice water at 0° C. and extracted with EtOAc. The organic layer was separated, washed successively with 1N HCl and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (1.580 g).

reactant | aluminum chloride | 3.30 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-dodecanethiol | 17.80 mL | C(CCCCCCCCCCC)S | C12H26S
reactant | methyl(6-methoxy-7-methyl-1-benzothiophen-3-yl)acetate | 3.1 g | COC(CC1=CSC2=C1C=CC(=C2C)OC)=O | C13H14O3S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl(6-hydroxy-7-methyl-1-benzothiophen-3-yl)acetate | 1.580 g | COC(CC1=CSC2=C1C=CC(=C2C)O)=O | C12H12O3S
